US09255094B2
Preparation of 3-(8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-2(5H)-yl)propanenitrile (Compound No. 1-34)
8-Methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (250 mg, 8.19 mmol) was taken into water (3 mL) along with acrylonitrile (0.065 mL, 0.982 mmol) and stirred for 10 min. Ceric ammonium nitrite (133 mg, 0.245 mmol) was added to it at once and the reaction mixture was stirred for 2 h. Product was detected by LCMS and TLC. The reaction mixture was basified with sat. NaHCO3 solution and extracted into EtOAc. The organic layer was dried over anhydrous sodium sulfate, concentrated and the crude product purified by column chromatography (Silica gel, 2-4% MeOH in DCM) to get product 180 mg (61.43%). This was converted into the oxalate salt (143 mg). 1HNMR (CD3OD, Oxalate salt) d (ppm): 7.88 (s, 1H), 7.68-7.64 (d, 1H), 7.38-7.34 (d, 1H), 7.22 (s, 1H), 7.18-7.15 (d, 1H), 7.02-6.97 (d, 1H), 4.42 (s, 2H), 4.40-4.36 (t, 2H), 3.58-3.38 (m, 4H), 3.19-3.08 (m, 4H), 2.88-2.80 (t, 2H), 2.53 (s, 3H), 2.40 (s, 3H).

reactant | 8-Methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 8.19 mmol, 250 mg | CC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCNC3 | C20H23N3
reactant | acrylonitrile | 0.982 mmol, 0.065 mL | C(C=C)#N | C3H3N
reactant | ammonium nitrite | 0.245 mmol, 133 mg | N(=O)[O-].[NH4+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 3 mL | O | H2O
product | 3-(8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-2(5H)-yl)propanenitrile | 180 mg, 61.43% | CC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)CCC#N | C23H26N4
